US07230011B2
Benzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using benzenesulfonyl chloride (280 μL, 2.2 mmol), 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (418 mg, 1.8 mmol) in 0.2 N sodium hydroxide (10 mL, 2.0 mmol) and THF (6 mL) gave 650 mg of an off white solid. The crude product was recrystallized from ethyl acetate to give 505 mg (75%) of tan needles: mp=192-194° C.; MS(m/e): 370 (M+); Calculated for C20H22N2O3S: C, 64.84; H, 5.99; N, 7.56. Found: C, 64.92; H, 6.19; N, 7.67.

reactant | benzenesulfonyl chloride | 2.2 mmol, 280 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 1.8 mmol, 418 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 2.0 mmol, 0.2 N, 10 mL | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | Benzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 505 mg, 75% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=CC=C1 | C20H22N2O3S
